US04683189
20 g of 4-carboethoxyphenyl isothiocyanate and 6.5 g of sodium azide are added to water and heated at 80° C. After 2 hours of reaction, the reaction mixture is filtered, cooled and acidified with hydrochloric acid to give crystals of 1-(4-carboethoxyphenyl)-5-mercaptotetrazole. To the crystals are added 5 equivalents of sodium hydroxide (1N NaOH in water) and the mixture is heated at 80° C. for 5 hours. After cooling, the reaction mixture is acidified with hydrochloric acid to cause crude crystals of Compound III-4 to separate out. The crystals are recrystallized from methanol. Yield: 55%, m.p. about 195° C. (decomposed).

reactant | 4-carboethoxyphenyl isothiocyanate | 20 g | C(=O)(OCC)C1=CC=C(C=C1)N=C=S | C10H9NO2S
reactant | sodium azide | 6.5 g | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
product | 1-(4-carboethoxyphenyl)-5-mercaptotetrazole | Yield: 55% | C(=O)(OCC)C1=CC=C(C=C1)N1N=NN=C1S | C10H10N4O2S
